US05593993
3-Fluorophenol (20.0 g, 178.4 mmol), ethyl iodide (83.5 g, 535.2 mmol) and K2CO3 (49.3 g, 356.8 mmol) in 250 ml of acetone were stirred at 50° C. overnight. The mixture was filtered and evaporated to give 1-ethoxy-3-fluorobenzene.

reactant | 3-Fluorophenol | 178.4 mmol, 20.0 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | ethyl iodide | 535.2 mmol, 83.5 g | C(C)I | C2H5I
reactant | K2CO3 | 356.8 mmol, 49.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1-ethoxy-3-fluorobenzene | C(C)OC1=CC(=CC=C1)F | C8H9FO
